US06762180B1
(4) N-[(2-(piperidin-1-yl)-ethyl)-carbonyl]-N-methyl-4-nitroaniline
Prepared from N-acryloyl-N-methyl-4-nitro-aniline and piperidine

reactant | N-acryloyl-N-methyl-4-nitro-aniline | C(C=C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H10N2O3
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-[(2-(piperidin-1-yl)-ethyl)-carbonyl]-N-methyl-4-nitroaniline | N1(CCCCC1)CCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C15H21N3O3
